US04948887
(1) Methyl 3-acetoxymethyl-2-chloro-4-methanesulfonylbenzoate
50 ml of a DMF solution containing 5.0 g of methyl 3-bromomethyl-2-chloro-4-methanesulfonylbenzoate and 1.2 g of sodium acetate, was stirred for 2 hours at 100° C. After cooling, the reaction mixture was poured into ice water and extracted with chloroform. After washing the extract with water and drying it, the solvent was distilled off to obtain 4.2 g of the desired product. Melting point: 165°-168° C.

reactant | methyl 3-bromomethyl-2-chloro-4-methanesulfonylbenzoate | 5.0 g | BrCC=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)Cl | C10H10BrClO4S
reactant | sodium acetate | 1.2 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 3-acetoxymethyl-2-chloro-4-methanesulfonylbenzoate | 4.2 g | C(C)(=O)OCC=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)Cl | C12H13ClO6S
